US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-(4-imidazo[1,2-a]pyridin-7-ylphenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one
A vial was charged with a slurry of 4-(4-bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (100 mg, 0.256 mmol), imidazo[1,2-a]pyridin-7-ylboronic acid (83 mg, 0.511 mmol), tetrakis(triphenylphosphine)palladium(0) (29.5 mg, 0.026 mmol) and tripotassium phosphate (217 mg, 1.022 mmol) in absolute ethanol (5.0 mL) and water (5.00 mL) then purged with nitrogen and sealed with a standard teflon septa (crimped aluminum seal). The reaction was then heated in an aluminum block at 95° C. for 6 h. The resulting yellow solution was evaporated in vacuo to a residue that was triturated in DMSO, filtered through a nylon syringe adapter, then purified by reverse phase HPLC (LUNA C-18: 30×50 mm column; 10-40% acetonitrile w/0.1% TFA/water w/0.1% TFA). The desired product fractions were combined, treated with saturated aqueous sodium bicarbonate and evaporated to a residue that was slurried in 5% MeOH in dichloromethane and filtered through a short pad of silica (˜2 g). The filtrate was evaporated in vacuo to afford the title compound as a tan solid (56 mg, 48.6%). MS(ES)+ m/e 429.0 [M+H]+.

reactant | 4-(4-bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.256 mmol, 100 mg | BrC1=CC=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O | C17H19BrN4O2
reactant | imidazo[1,2-a]pyridin-7-ylboronic acid | 0.511 mmol, 83 mg | N=1C=CN2C1C=C(C=C2)B(O)O | C7H7BN2O2
reactant | tripotassium phosphate | 1.022 mmol, 217 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
solvent | water | 5.00 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.026 mmol, 29.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-(4-imidazo[1,2-a]pyridin-7-ylphenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 56 mg, 48.6% | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)C1=CC=2N(C=C1)C=CN2 | C24H24N6O2
